US05066803
Similarly 8 g (0.034 mole) of racemic 2-(4-morpholinylmethyl)-3,4-dihydro-2H-1,4-benzoxazine in about 130 ml. of 2N aqueous hydrochloric acid was treated with 1.3 g (0.019 mole) of sodium nitrite in about 100 ml of water at 0° C. to produce racemic 2-(4-morpholinylmethyl)-4-nitroso-3,4-dihydro-2H-1,4-benzoxazine, which was used as such in the next synthetic step without further purification or characterization.

reactant | racemic 2-(4-morpholinylmethyl)-3,4-dihydro-2H-1,4-benzoxazine | 0.034 mole, 8 g | N1(CCOCC1)CC1OC2=C(NC1)C=CC=C2 | C13H18N2O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium nitrite | 0.019 mole, 1.3 g | N(=O)[O-].[Na+]
solvent | water | about 100 ml | O | H2O
product | racemic 2-(4-morpholinylmethyl)-4-nitroso-3,4-dihydro-2H-1,4-benzoxazine | N1(CCOCC1)CC1OC2=C(N(C1)N=O)C=CC=C2 | C13H17N3O3
